US05081123
b. 6-Bromo-4-hydroxybenzo[f]quinoxaline-2,3(1H,4H)-dione
A solution of 4-bromo-1-ethoxalylamino-2-nitronaphthalene (0.20 g, 0.5 mmol) in 20 ml of N,N-dimethylformamide was hydrogenated at room temperature and atmospheric pressure in the presence of a small amount of Raney-Ni. After the hydrogen uptake was complete, the mixture was filtered. The filtrate was evaporated to dryness and the residue was triturated with water and hot ethanol to give 100 mg (62%) of the title compound. M.p. >200° C. dec.; IR (KBr): 1690 cm-1 ; MS (m/e): 306 (M+, 2%), 308 ((M+2)+, 2%).

reactant | 4-bromo-1-ethoxalylamino-2-nitronaphthalene | 0.5 mmol, 0.20 g | BrC1=CC(=C(C2=CC=CC=C12)NC(=O)C(=O)OCC)[N+](=O)[O-] | C14H11BrN2O5
reactant | hydrogen | [H][H] | H2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | Ni | [Ni] | Ni
product | 6-Bromo-4-hydroxybenzo[f]quinoxaline-2,3(1H,4H)-dione | 100 mg, 62% | BrC=1C2=C(C=3NC(C(N(C3C1)O)=O)=O)C=CC=C2 | C12H7BrN2O3
